US09283224B2
5-(2-Aminopyrimidin-4-yl)-2-(2-chloro-5-cyanophenyl)-1H-pyrrole-3-carboxamide [(I), R1=Cl, R2=CN, R3=R4=NH2, R12=H] (compd. 7)
5-(2-Aminopyrimidin-4-yl)-2-bromo-1H-pyrrole-3-carboxamide (prepared according to WO2007/110344, 0.1 g, 0.35 mmol), 2-chloro-5-cyanophenylboronic acid (127 mg, 0.7 mmol), Na2CO3 (111 mg, 1.05 mmol), and PdCl2(dppf) (28 mg, 0.035 mmol) in DME (2.5 mL) and water (1 mL) were heated at 80° C. for 12 h, under argon. After cooling to room temperature, the precipitate was filtered and the filtrate was evaporated under reduced pressure. The crude material was purified by preparative HPLC (Method 1) to afford the title compound (15 mg, 13%).

reactant | 5-(2-Aminopyrimidin-4-yl)-2-bromo-1H-pyrrole-3-carboxamide | 0.35 mmol, 0.1 g | NC1=NC=CC(=N1)C1=CC(=C(N1)Br)C(=O)N | C9H8BrN5O
reactant | 2-chloro-5-cyanophenylboronic acid | 0.7 mmol, 127 mg | ClC1=C(C=C(C=C1)C#N)B(O)O | C7H5BClNO2
reactant | Na2CO3 | 1.05 mmol, 111 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 2.5 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
catalyst | PdCl2(dppf) | 0.035 mmol, 28 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(2-Aminopyrimidin-4-yl)-2-(2-chloro-5-cyanophenyl)-1H-pyrrole-3-carboxamide | 15 mg, 13% | NC1=NC=CC(=N1)C1=CC(=C(N1)C1=C(C=CC(=C1)C#N)Cl)C(=O)N | C16H11ClN6O
